US05461067
E. N-((N-Methyl-N-((2-isopropyl-4-thiazolyl)methyl)amino)carbonyl)-L-valine Methyl Ester
A solution of 15.7 g (92 mmol) of 2-isopropyl-4-(((N-methyl)amino)methyl)thiazole in 200 ml of THF was combined with a solution of 20.5 g (69 mmol) of N-(((4-nitrophenyl)oxy)carbonyl)-L-valine methyl ester. The resulting solution was treated with 1.6 g of 4-dimethylaminopyridine and 12.9 ml (92 mmol) of triethylamine, heated at reflux for 2 h, allowed to cool, and concentrated in vacuo. The residue was taken up in CH2Cl2, washed extensively with 5% aqueous K2CO3, dried over Na2SO4, and concentrated in vacuo. The resulting product mixture was purified by silica gel chromatography using chloroform as an eluent to provide 16.3 g (54%) of the desired compound.

reactant | 2-isopropyl-4-(((N-methyl)amino)methyl)thiazole | 92 mmol, 15.7 g | C(C)(C)C=1SC=C(N1)CNC | C8H14N2S
reactant | N-(((4-nitrophenyl)oxy)carbonyl)-L-valine methyl ester | 69 mmol, 20.5 g | COC([C@@H](NC(=O)OC1=CC=C(C=C1)[N+](=O)[O-])C(C)C)=O | C13H16N2O6
reactant | triethylamine | 92 mmol, 12.9 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 200 ml | C1CCOC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 1.6 g | CN(C1=CC=NC=C1)C | C7H10N2
product | N-((N-Methyl-N-((2-isopropyl-4-thiazolyl)methyl)amino)carbonyl)-L-valine Methyl Ester | 16.3 g, 54% | COC([C@@H](NC(=O)N(CC=1N=C(SC1)C(C)C)C)C(C)C)=O | C15H25N3O3S
